US07074817B2
A stirred slurry of 4.23 g (40 mmol) Na2CO3, 1.84 g (9.4 mmol) 5-bromoindole, 1.88 g (10 mmol) 3-chlorophenylboronic acid, and 0.29 g (0.25 mmol) Pd(PPh3)4 in 50 mL 1:1 EtOH-water was heated to reflux for 2.5 hours. The reaction mixture was allowed to cool and was then poured into 400 mL water and extracted with EtOAc. The organic layer was separated, dried over MgSO4, and concentrated to afford 2.15 g crude 5-(3-chlorophenyl)indole as a tan solid.

reactant | Na2CO3 | 40 mmol, 4.23 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-bromoindole | 9.4 mmol, 1.84 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 3-chlorophenylboronic acid | 10 mmol, 1.88 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | EtOH water | CCO.O
catalyst | Pd(PPh3)4 | 0.25 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 400 mL | O | H2O
product | 5-(3-chlorophenyl)indole | 2.15 g | ClC=1C=C(C=CC1)C=1C=C2C=CNC2=CC1 | C14H10ClN
